US05650399
A mixture of 2-chloro-1,4-dimethylanthraquinone (1 g) and 1-(2-hydroxyethyl)piperazine (5 g) is heated at 150° C. for 30 min. After cooling to room temperature, water is added, and the material is filtered. Recrystallization from chloroform yields 1-[1-(2-hydroxyethyl)piperazinyl]-1,4-dimethylanthraquinone.

reactant | 2-chloro-1,4-dimethylanthraquinone | 1 g | ClC1=C(C=2C(C3=CC=CC=C3C(C2C(=C1)C)=O)=O)C | C16H11ClO2
reactant | 1-(2-hydroxyethyl)piperazine | 5 g | OCCN1CCNCC1 | C6H14N2O
solvent | water | O | H2O
product | 1-[1-(2-hydroxyethyl)piperazinyl]-1,4-dimethylanthraquinone | OCCN1C(CNCC1)C1(CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)C)C | C22H26N2O3
